US04267179
A mixture of 6 parts of 4-[4-(4-methoxyphenyl)-1-piperazinyl]benzenamine, 3.6 parts of phenyl carbonochloridate, 75 parts of pyridine and 98 parts of dichloromethane is stirred and warmed till all solid enters solution. Stirring is continued for 30 minutes at room temperature. The reaction mixture is poured onto 500 parts of water and 210 parts of 2,2'-oxybispropane are added. The whole is stirred for a while. The precipitated product is filtered off and crystallized from 1-butanol, yielding 5.2 parts (61%) of phenyl{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}carbamate; mp. 204.5° C.

reactant | 4-[4-(4-methoxyphenyl)-1-piperazinyl]benzenamine | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N | C17H21N3O
reactant | phenyl carbonochloridate | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | phenyl{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}carbamate | 61% | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC)=O | C24H25N3O3
